US05641889
(+)-(1S,2R, 4R)-4-[2-Amino-6-(cyclopropylamino)-9H-purin-9yl]-2 -(hydroxymethyl)-1-cyclopentanol
(+)-(1S, 2R, 4R)-4-(2-Amino-6-chloro-9H-purin-9-yl)-2-(hydroxymethyl) cyclopentanol (425 mg, 1.5 mmol), cyclopropylamine (Aldrich, 1.4 mL), and ethanol (4 mL) were refluxed for 3 hours. To the cooled solution was added 1N sodium hydroxide (1.5 mL). The residual oil left on evaporation of volatiles under vacuum was chromatographed on silica gel. Title compound was eluted with methanol ethyl acetate/15:85 as a white solid foam which solidified to white powder in methanol-acetonitrile (309 mg, 68%); m.p. 174°-176° C.; mass spectrum (Cl,CH4)305 (M+1); 1H-NMR(DMSO-d6) δ: 7.79 (s, 1, H-8); 7.25 (d, J=2.9 Hz, 1, NH), 5.79 (s, 2, NH2), 4.90-4.75 (m, 1, CH-N), 4.73 (d, J=4.0 Hz, 1, OH), 4.63 (t, J=5.3 Hz, 1, CHOH), 4.08-4.00 (m, 1, CHO), 3.58-3.38 (m, 2, CH2O), 3.05-2.95 (m, 1 CH-NH), 2.35-2.20(m, 1, CH), 2.18-2.0 (m, 1, 1/2CH2), 2.0-1.9 (m, 2, methylene), 1.7-1.5 (m, 1, 1/2CH2),0.70-0.50 m, 4, 2CH2 of cyclopropyl); [α]20589 +7.72°, [α]20 578 +7.87°, [α]20546 +8.77°, [α]20436 +14.4°, [α]20365 +20.1°(c=0.65, methanol).

reactant | (+)-(1S, 2R, 4R)-4-(2-Amino-6-chloro-9H-purin-9-yl)-2-(hydroxymethyl) cyclopentanol | 1.5 mmol, 425 mg | NC1=NC(=C2N=CN(C2=N1)[C@@H]1C[C@@H]([C@H](C1)O)CO)Cl | C11H14ClN5O2
reactant | cyclopropylamine | 1.4 mL | C1(CC1)N | C3H7N
reactant | sodium hydroxide | 1N, 1.5 mL | [OH-].[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | (+)-(1S,2R, 4R)-4-[2-Amino-6-(cyclopropylamino)-9H-purin-9yl]-2 -(hydroxymethyl)-1-cyclopentanol | NC1=NC(=C2N=CN(C2=N1)[C@@H]1C[C@@H]([C@H](C1)O)CO)NC1CC1 | C14H20N6O2
